US07732461B2
3-Chloro-4-({(3R,4S)-3-hydroxy-4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was synthesised from racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one and [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 61) according to the general method of Example 24(b). The free base of the title compound was converted to the hydrochloride by dissolving in chloroform and adding 1 equivalent of 1M HCl/diethyl ether, then evaporating to dryness. MS as that of free base.

reactant | racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | N[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C16H19ClN4O2
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | hydrochloride | Cl | ClH
reactant | HCl diethyl ether | 1M, 1 equivalent | Cl.C(C)OCC
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-4-({(3R,4S)-3-hydroxy-4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3C[C@H]([C@H](CC3)NCC3=CC1=C(C=N3)OCS1)O)=O | InChI=1S/C23H24ClN5O3S.ClH/c24-15-7-27-17-1-2-21(31)29-10-13(22(15)23(17)29)9-28-4-3-16(18(30)11-28)26-6-14-5-20-19(8-25-14)32-12-33-20;/h1-2,5,7-8,13,16,18,26,30H,3-4,6,9-12H2;1H/t13?,16-,18+;/m0./s1
